US06414148B1
A solution of (R)-(1-methylpiperidin-3-yl)methanol (2.29 g, 18 mmol) in methylene chloride (10 ml) was added to a stirred mixture of 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (4.0 g, 12.5 mmol), (prepared as described for the starting material in Example 2), and triphenylphosphine (9.81 g, 37.5 mmol) in methylene chloride (200 ml). Diethyl azodicarboxylate (5.87 ml, 37 mmol) was added dropwise and the reaction mixture was stirred for 18 hours at ambient temperature. The volatiles were removed by evaporation and the residue was purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (a gradient from 100/0/0 to 85/15/0.1). The purified product was triturated with ethyl acetate, collected by filtration, washed with ethyl acetate and dried to give (R)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-3-yl)methoxyquinazoline (2.78 g, 52%).

reactant | (R)-(1-methylpiperidin-3-yl)methanol | 18 mmol, 2.29 g | CN1C[C@@H](CCC1)CO | C7H15NO
reactant | 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 12.5 mmol, 4.0 g | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | triphenylphosphine | 37.5 mmol, 9.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 37 mmol, 5.87 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (R)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-3-yl)methoxyquinazoline | 2.78 g, 52% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC[C@H]2CN(CCC2)C)C=C1)F | C22H24ClFN4O2
